*** Title: "E:\WORCK\LR_2_SH\simulation\tb_mul\netlistLR_2_SH_NID.net"
*** Generated by:  Symica
*** © 2009-2014 Symica. All rights reserved. (www.symica.com)
*** Generated for: SymSpice                                     
*** Generated on:  Sat Feb 14 14:48:51 2026                     
*******************************************************************

simulator lang=local


parameters 

C0 OUT_0 gnd capacitor c=1e-013 
C1 OUT_1 gnd capacitor c=1e-013 
C2 OUT_2 gnd capacitor c=1e-013 
C3 OUT_3 gnd capacitor c=1e-013 
C4 OUT_4 gnd capacitor c=1e-013 
C5 OUT_5 gnd capacitor c=1e-013 
V0 vdd! gnd vsource type=dc dc=5 
V1 A_0 gnd vsource type=pulse val0=5 val1=0 period=4e-008 rise=1e-010 fall=1e-010 width=2e-008 
V2 A_1 gnd vsource type=pulse val0=5 val1=0 period=8e-008 rise=1e-010 fall=1e-010 width=4e-008 
V3 A_2 gnd vsource type=pulse val0=5 val1=0 period=1.6e-007 rise=1e-010 fall=1e-010 width=8e-008 
V4 B_2 gnd vsource type=pulse val0=5 val1=0 period=4.8e-007 rise=1e-010 fall=1e-010 width=3.2e-007 
V5 B_1 gnd vsource type=pulse val0=5 val1=0 period=3.2e-007 rise=1e-010 fall=1e-010 width=1.6e-007 
V6 B_0 gnd vsource type=pulse val0=0 val1=5 period=4.8e-007 rise=1e-010 fall=1e-010 width=3.2e-007 
I0 A_0 A_1 A_2 B_0 B_1 B_2 OUT_0 OUT_1 OUT_2 OUT_3 OUT_4 OUT_5 MULT 

subckt MULT A_0 A_1 A_2 B_0 B_1 B_2 OUT_0 OUT_1 OUT_2 OUT_3 OUT_4 OUT_5 
V0 SUM_1_A_2 gnd vsource type=dc dc=0 
I6 B_0 A_0 n16_3 NAND2 
I7 OUT_0 n16_3 inv 
I8 B_0 A_1 n18_3 NAND2 
I10 SUM_1_A_0 n18_3 inv 
I11 B_0 A_2 n20_3 NAND2 
I12 SUM_1_A_1 n20_3 inv 
I13 B_1 A_0 n40_3 NAND2 
I14 SUM_2_A_0 n40_3 inv 
I15 B_1 A_1 n42_3 NAND2 
I16 SUM_2_A_1 n42_3 inv 
I18 SUM_2_A_2 n45_1 inv 
I19 B_2 A_0 n46_3 NAND2 
I20 SUM_3_A_0 n46_3 inv 
I21 B_2 A_1 n48_3 NAND2 
I22 SUM_3_A_1 n48_3 inv 
I24 SUM_3_A_2 n51_1 inv 
I17 B_1 A_2 n45_1 NAND2 
I23 B_2 A_2 n51_1 NAND2 
I0 n26_0_0 n26_0_1 n26_0_2 SUM_2_A_0 SUM_2_A_1 SUM_2_A_2 gnd SUM_1_A_0 SUM_1_A_1 SUM_1_A_2 OUT_1 SUM_3 
I1 OUT_3 OUT_4 OUT_5 SUM_3_A_0 SUM_3_A_1 SUM_3_A_2 gnd n26_0_0 n26_0_1 n26_0_2 OUT_2 SUM_3 
ends

subckt NAND2 B A Out 
M1 n2_4 B gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M2 Out A n2_4 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M0 Out B vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M3 vdd! A Out vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
ends

subckt inv out in 
M3 out in vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M2 out in gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends

subckt SUM_3 n23_0 OUT_1 OUT_2 B_0 B_1 B_2 C_IN A_0 A_1 A_2 OUT_0 
V7 C_IN gnd vsource type=dc dc=0 
I0 B_0 A_0 n6_4 C_IN n6_6 n6_5 OUT_0 n6_7 CPL_sum 
I1 B_1 A_1 n7_4 n6_7 n7_6 n7_5 n23_0 n7_7 CPL_sum 
I2 B_2 A_2 n8_4 n7_7 n8_6 n8_5 OUT_1 OUT_2 CPL_sum 
I6 n6_6 C_IN inv 
I5 n6_5 B_0 inv 
I4 n6_4 A_0 inv 
I7 n7_6 n6_7 inv 
I8 n7_5 B_1 inv 
I9 n7_4 A_1 inv 
I10 n8_6 n7_7 inv 
I11 n8_5 B_2 inv 
I12 n8_4 A_2 inv 
ends

subckt CPL_sum B A neA C neC neB SUMM CARRY 
M4 n5_1 C n7_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M5 n2_1 neC n7_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M1 neB neA n2_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M3 neB A n5_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M2 B neA n5_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M7 neA B n11_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M8 n12_4 neA n12_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M9 n11_1 A n12_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M11 neC B n12_4 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M12 neA neB n12_4 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M10 neC neB n11_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M0 B A n2_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
I1 SUMM n7_1 inv 
I2 CARRY n12_1 inv 
ends
